US03984398
Starting from 1-phenyl 1,2,4,5tetrahydro 2,4-dioxo 3H-1,5-benzodiazepine, obtained in the Example VII, by acting methyl chloride in the presence of sodium ethanolate, there is obtained 1-phenyl 5-methyl 1,2,4,5-tetrahydro 2,4-dioxo 3H-1,5-benzodiazepine, melting at 144°-146° C. after recrystallisation in isopropanol.

reactant | 1-phenyl 1,2,4,5tetrahydro 2,4-dioxo 3H-1,5-benzodiazepine | C1(=CC=CC=C1)N1C(CC(NC2=C1C=CC=C2)=O)=O | C15H12N2O2
reactant | methyl chloride | CCl | CH3Cl
reactant | sodium ethanolate | C(C)[O-].[Na+]
product | 1-phenyl 5-methyl 1,2,4,5-tetrahydro 2,4-dioxo 3H-1,5-benzodiazepine | C1(=CC=CC=C1)N1C(CC(N(C2=C1C=CC=C2)C)=O)=O | C16H14N2O2
